US08809529B2
8-benzyl-2-(4-hydroxybenzyl)-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one:
Synthesized using method A with 3-(4-hydroxyphenyl)-2-oxopropanoic acid and 3-benzyl-5-phenylpyrazin-2-amine as starting materials. Exact mass calculated for C26H22N3O2+ m/z+ 408.17, found m/z+ 408.

reactant | 3-(4-hydroxyphenyl)-2-oxopropanoic acid | OC1=CC=C(C=C1)CC(C(=O)O)=O | C9H8O4
reactant | 3-benzyl-5-phenylpyrazin-2-amine | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=CC=C1)N | C17H15N3
product | 8-benzyl-2-(4-hydroxybenzyl)-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one | C(C1=CC=CC=C1)C1=C2N(C=C(N1)C1=CC=CC=C1)C(C(=N2)CC2=CC=C(C=C2)O)=O | C26H21N3O2
